US06511990B1
Octanedioic Acid Benzylamide (49)
To a stirred solution of suberoyl chloride (1.00 mL, 5.55 mmol) in THF (40 mL) at 0° C. was added a solution of benzylamine (0.61 mL, 5.55 mmol) and DIEA (1.45 mL, 8.33 mmol) in THF (10 mL) dropwise. The mixture was allowed to warm to ambient temperature and stirred for 1 h. Then, HCl (10 mL, 1 N) was added and the mixture stirred for 0.5 h. The contents were diluted with EtOAc (30 mL) and the layers separated. The aqueous portion was extracted with EtOAc (3×10 mL), the organics combined, washed with brine (5 mL), and dried over MgSO4. Filtration and concentration under reduced pressure left 49 as an off-white solid. 1H-NMR (300 MHz, DMSO-d6) δ 11.98 (br s, 1H), 9.80 (t, 1H), 7.32 (m, 2H), 7.23 (m, 3H), 4.25 (d, 2H), 2.19 (t, 2H), 2.12 (t, 2H), 1.50 (m, 4H), 1.25 (m, 4H).

reactant | suberoyl chloride | 5.55 mmol, 1.00 mL | C(CCCCCCC(=O)Cl)(=O)Cl | C8H12Cl2O2
reactant | benzylamine | 5.55 mmol, 0.61 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | DIEA | 8.33 mmol, 1.45 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 1 N, 10 mL | Cl | ClH
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | Octanedioic Acid Benzylamide | C(C1=CC=CC=C1)NC(CCCCCCC(=O)O)=O | C15H21NO3
